Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain and Fevers 
 
Major Surgical or Invasive Procedure:
Pericardiocentesis and pericardial drain placement ___

 
History of Present Illness:
Mr. ___ is a ___ w/ PMH of ___ and no known 
cardiac disese who presents with 2 weeks of chest pain, 
intermittent fevers, and night sweats. Pt. had been in his usual 
state of health until 2 weeks prior to presentation to PCP's 
office. Pt. had noted at this time a ___ day hx. of chest pain 
worsened with deep inspiration, when lying down or leaning 
forward. He took his temp at home and it ranged between 99.5 - 
101.1. On exam he was found to have a signficant friction rub 
with sinus tachycardia, diffuse ST elevations, and PR 
depressions on EKG. Labs revealed WBC 7.6, normal H/H and plts 
with negative CXR. He was placed on a regimen of NSAIDS PRN for 
chest pain. He continued to have chest pain and chills and 
followed up with his PCP's office on ___ continuing to 
complain of CP despite NSAIDs. Pt. had an urgent TTE on ___ 
which revealed early tamponade w/ mod-large pericardial 
effusion; palpable pulsus paradoxicus (subtle) and increased 
HJR, JVP ~7 cm. Following results of TTE, pt. presented 
immediately to ___ for further management. In ED, initial 
Vital Signs 99.2, 118, 127/64, 18, 99% on RA. He was then sent 
to the cath lab for pericardiocentesis, where ~700 cc's of 
serosanguinous fluid were drained, and a pericardial drain was 
left in place. On arrival to the CCU, he was comfortable and 
felt about the same as he did on admission.  
Pt does note that he has had these symptoms off and on for the 
past ___ years. He does report a similar episode of this pain in 
___, but at that time he was treated for H. Pylori infection. 
he has undergone autoimmune workup in the past that has been 
negative. Has never had a clinically evident episode of 
pericarditis before.  
REVIEW OF SYSTEMS:  
On review of systems, pt. denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. Denies exertional buttock or calf pain. 
All of the other review of systems were negative. (+) orthopnea 
but denies DOE, lightheadedness, shortness of breath, weight 
gain, or extremity swelling.  

 
Past Medical History:
- ___ disease - Previously pt. of Dr. ___ 
actively being managed at this time (looking for new 
neurologist)  
- Hx. of pneumonia  
- Erectile Dysfunction  
- Osteoarthritis  
- Episodic memory loss  
- BPH (benign prostatic hyperplasia)  
- Obstructive sleep apnea  
- Hx. of chronic L5/S1 radicular pain ___ left paracentral disk 
herniation with left foraminal disk bulging at L5-S1.  
- Hx. of elevated PSA  
- Hx. H Pylori infection - s/p prevpac ___  
- Depression  

 
Social History:
___
Family History:
Significant for family history of colonic polyps and 
___ disease. No family history of early MI, arrhythmia, 
cardiomyopathies, or sudden cardiac death.  Mother had CAD, 
stroke.  Other family members with HTN ; otherwise 
non-contributory.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================

VS: T= 99.3, HR 124 Sinus, BP 146/84, RR 19, O2sat= 98% 
Pulsus paradoxus = 5 mm Hg 
___:  Appears stated age, NAD
HEENT:  Mucous membranes moist, oropharynx clear, PERRLA, no 
Neck:  JVD at 8 cm
CV:  RRR, tachy, S1 S2 auscultated, no murmurs, no pericardial 
friction rub
Lungs:  Cracles at bilateral bases, L>R
Abdomen:  Soft, NT ND +BS
GU:  Deferred
Ext:  No ___ edema
Neuro:  No evidence of chorea, AOx3, grip strength ___ in UEs 
bilat, gait deferred
Skin:  No rash, slightly flushed
PULSES:  2+ ___

DISCHARGE PHYSICAL EXAM:
========================

VS: 98.1 131/79 96 18 96% ___:  Appears stated age, NAD
HEENT:  Mucous membranes moist, oropharynx clear, PERRLA, no 
Neck:  JVP non-elevated
CV:  RRR, S1 S2 auscultated, no murmurs, no pericardial friction 
rub
Lungs:  CTAB
Abdomen:  Soft, NT ND +BS
GU:  Deferred
Ext:  No ___ edema
Neuro:  No evidence of chorea, AOx3, grip strength ___ in UEs 
bilat, gait deferred
Skin:  No rash
PULSES:  2+ ___
 
Pertinent Results:
ADMISSION LABS:
===============

___ 11:45AM BLOOD WBC-15.2* RBC-4.40* Hgb-11.9* Hct-36.7* 
MCV-83 MCH-27.1 MCHC-32.5 RDW-15.3 Plt ___
___ 11:45AM BLOOD ___ PTT-26.5 ___
___ 11:45AM BLOOD Glucose-87 UreaN-11 Creat-1.0 Na-138 
K-3.9 Cl-101 HCO3-31 AnGap-10
___ 11:45AM BLOOD proBNP-383*
___ 11:45AM BLOOD Calcium-9.0 Phos-2.9 Mg-2.0
___ 11:52AM BLOOD Lactate-0.8

PERTINENT LABS:
===============

___ 11:45AM BLOOD proBNP-383*
___ 11:45AM BLOOD cTropnT-<0.01
___ 01:30PM OTHER BODY FLUID WBC-3200* ___ Polys-47* 
Lymphs-46* Monos-0 Eos-1* Macro-6*
___ 01:30PM OTHER BODY FLUID TotProt-5.1 Glucose-75 
LD(LDH)-115 Amylase-22 Albumin-2.8

PERTINENT IMAGING/STUDIES:
==========================

Echo ___ (Pre-pericardiocentesis): 
Conclusions
Overall left ventricular systolic function is low normal (LVEF 
50%). The right ventricular free wall thickness is normal. Right 
ventricular chamber size is normal with borderline normal free 
wall function. There is a large pericardial effusion. The 
effusion appears circumferential. There is significant, 
accentuated respiratory variation in mitral/tricuspid valve 
inflows, consistent with impaired ventricular filling.  

Echo ___ (Post-pericardiocentesis):
Conclusions  
Left ventricular wall thickness, cavity size, and global 
systolic function are normal (LVEF = 60%). The right ventricular 
free wall thickness is normal. Right ventricular chamber size is 
normal. with borderline normal free wall function. There is 
abnormal diastolic septal motion/position consistent with right 
ventricular volume overload. There is a small pericardial 
effusion. The effusion is echo dense, consistent with blood, 
inflammation or other cellular elements. There are no 
echocardiographic signs of tamponade. 

Compared with the prior study (images reviewed) of ___, 
the pericardial effusion is now much smaller.   

Echo ___: 
Conclusions
Left ventricular wall thickness, cavity size, and global 
systolic function are normal (LVEF>55%). Right ventricular 
chamber size is normal with mild global free wall hypokinesis. 
There is abnormal diastolic septal motion/position consistent 
with right ventricular volume overload. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. There is a small circumferential pericardial effusion. 
The effusion is echo dense, consistent with blood, inflammation 
or other cellular elements. There are no echocardiographic signs 
of tamponade.

IMPRESSION: Small circumferential pericardial effusion without 
echocardiographic evidence of hemodynamic compromise. Mildly 
hypokinetic right ventricle with signs of volume 
overload.Compared with the prior study (images reviewed) of 
___, the findings are similar.  

Echo ___:
Conclusions  
Left ventricular wall thicknesses and cavity size are normal. 
Overall left ventricular systolic function is low normal (LVEF 
55%). Right ventricular chamber size is normal with mild global 
free wall hypokinesis. There is abnormal septal motion/position. 
The aortic valve leaflets (?#) appear structurally normal with 
good leaflet excursion. There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is a small (<1cm), circumferential 
pericardial effusion. The effusion is echo dense, consistent 
with blood, inflammation or other cellular elements. There is a 
suggestion of pericardial tethering to the left ventricle and 
early constriction cannot be excluded. There are no 
echocardiographic signs of tamponade. 

IMPRESSION: Low-normal global left ventricular systolic 
function. Mild right ventricular free wall hypokinesis. Small, 
echodense pericardial effusion without echocardiographic signs 
of tamponade. Cannot exclude early constriction.

Suggestion of pericardial tethering and constriction may be 
better evaluated with cardiac MRI.

Compared with the prior studies (images reviewed) of ___ 
and ___, the pericardial effusion appears slightly smaller 
in size. Biventricular function appears less vigorous, 
particularly less vigorous than the echocardiogram of ___. 
  

CXR ___:
IMPRESSION: No acute cardiopulmonary process.

PERTINENT MICRO/CYTOLOGY:
=========================

___ 1:30 pm FLUID,OTHER      PERICARDIAL. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary): 

___ 1:30 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERICARDIAL. 

   Fluid Culture in Bottles (Preliminary):    NO GROWTH. 

DISCHARGE LABS:
===============

___ 07:50AM BLOOD WBC-17.0* RBC-4.73 Hgb-12.4* Hct-40.1 
MCV-85 MCH-26.1* MCHC-30.8* RDW-15.4 Plt ___
___ 05:10AM BLOOD Glucose-99 UreaN-12 Creat-0.9 Na-139 
K-3.8 Cl-102 HCO3-26 AnGap-15
___ 05:10AM BLOOD Calcium-8.6 Phos-3.8 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ w/o prior cardiac hx who presented w/ 2 
weeks of chest pain and periodic fevers/chills, found to have 
pericardial friction rub and EKG changes c/w pericarditis, also 
w/ moderate pericardial effsion.

ACTIVE ISSUES:
==============

# Pericarditis:
The patient has had similar symptoms on and off for the past ___ 
years and has undergone workup for autoimmune pericarditis in 
the past that has been negative (Anti-ds DNA <12, SM AB 
negative, RNP AB negative, Anti-RO negative, Anti-La negative, 
RF negative).  On this most recent exacerbation, he had 
fever/chills and progressive CP that worsened with inspiration.  
On exam, he was hemodynamically stable and with a pulsus 
paradoxus of 5mmHg.  He had a pericardial friction rub and EKG 
with diffuse ST elevations nad PR depressions.  He was started 
on Colchicine and Naproxen, which he tolerated well.  He was 
discharged on these medications and instructed to call his 
physician should be develop GI upset or diarrhea.

# Pericardial effusion:
Echo on admission revealed a large concentric pericardial 
effusion with early tamponade physiology.  Pericardiocentesis 
was performed and drained ~700 cc's of serosanguinous fluid.  A 
Pericardial drain was left in place.  Echo the next day revealed 
no significant reaccumulation, and the drain was pulled.  
Pericardial fluid studies were sent and were ultimately 
unrevealing of an etiology; viral pericarditis was presumed.  No 
organisms were isolated on culture.  Follow-up echo on the day 
of discharge showed no significant reaccumulation but did show 
suggestion of pericardial tethering and restrictive physiology.  


CHRONIC ISSUES:
===============

# ___ Disease:
This was not an active issue during this hospitalization.

# Depression:
The patient was continued on his home doses of Bupropion and 
Sertraline.

# BPH: 
This was not an active issue during this hosptialization.

TRANSITIONAL ISSUES:
====================

- Will need f/u w/ PCP ___ ___ days (Dr. ___ and repeat EKG 
at that time
- Discharged on 4 weeks of Colchicine and Naproxen
- Echo on the day of discharge revealed suggestion of 
pericardial tethering with possible early restrictive 
physiology.  This should be followed-up on at his follow-up 
visit with Cardiology in 3 weeks (to be scheduled). 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO BID 
2. BuPROPion (Sustained Release) 300 mg PO QAM 
3. Sertraline 200 mg PO DAILY 
4. vardenafil 20 mg oral PRN prior to sex 
5. Ibuprofen 800 mg PO TID:PRN chest pain 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 300 mg PO QAM 
2. Omeprazole 20 mg PO BID 
3. Sertraline 200 mg PO DAILY 
4. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet extended release(s) by mouth 
every six (6) hours Disp #*40 Tablet Refills:*0
5. Colchicine 0.6 mg PO BID 
RX *colchicine [Colcrys] 0.6 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
6. vardenafil 20 mg oral PRN prior to sex 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
#Acute pericarditis

SECONDARY
#___ disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___ 
___. You were admitted because you had inflammation 
and fluid around your heart, a condition called pericarditis.  
We drained the fluid and started you on medications to decrease 
the inflammation in the lining around your heart.  You improved 
and are now ready to safely go home. 

If you experience diarrhea while taking colchicine, you should 
call your doctor, as this can be a side effect of this 
medication.  Do not stop taking this medication without speaking 
with your doctor first.  If you notice any blood in your stool 
or develop abdominal pain, call your doctor as well.

Please make sure to continue taking your medications as 
prescribed. 
Remember to follow-up as indicated below. 
We wish you a quick and complete recovery.

Your ___ Team.
 
Followup Instructions:
___